US05470845
A. 2-(4-Bromophenyl)naphthalene
To a stirred solution of 4.14 g (20.0 mmol) of 2-bromonaphthalene in 50 mL of THF at -78° C. under nitrogen was added a solution of 23.5 mL (40.0 mmol, 1.7M in pentane) of t-butyllithium over 10 minutes. The resulting slurry was stirred for 30 minutes and then warmed to 0° C. for 15 minutes. To this deep indigo solution was added a solution of 3.50 g (25.6 mmol) of thrice-fused zinc chloride in 25 mL of THF. The resulting light yellow solution was warmed to room temperature and stirred for 1 hour. After cooling to -78° C., a solution of 5.66 g (20.0 mmol) 1-bromo-4-iodobenzene and 300 mg (0.26 mmol) of tetrakis(triphenylphosphine)palladium in 20 mL of THF was added over the course of 15 minutes. After an additional 20 min, the cooling bath was removed, the reaction stirred at room temperature for 16 hours and then quenched with 50 mL of 2M hydrochloric acid. The mixture was extracted thrice with ether, the extracts combined, washed once with saturated sodium bicarbonate solution and once with 10% sodium thiosulfate. The organic extract was dried (MgSO4) and evaporated. The crude product was purified by flash chromatography on silica gel (5×25 cm column, hexanes as elutent) to give 4.05 g (72%) of title compound as a white solid, mp 121°-123° C.

reactant | 2-bromonaphthalene | 20.0 mmol, 4.14 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | t-butyllithium | 40.0 mmol, 1.7M, 23.5 mL | C(C)(C)(C)[Li]
reactant | 1-bromo-4-iodobenzene | 20.0 mmol, 5.66 g | BrC1=CC=C(C=C1)I | C6H4BrI
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.26 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Bromophenyl)naphthalene | 4.05 g, 72% | BrC1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1 | C16H11Br
